US06080868
Preparation of 1-(5'-carboxypentyl)-lepidinium bromide 4
See FIG. 3B. A mixture of lepidine (5 g) and 6-bromohexanoic acid (10 g) was heated to 130° C. for 6 h. The solid was washed with acetone and filtered to provide an off-white solid (10.5 g).

reactant | lepidine | 5 g | N1=CC=C(C)C2=CC=CC=C12 | C10H9N
reactant | 6-bromohexanoic acid | 10 g | BrCCCCCC(=O)O | C6H11BrO2
product | 1-(5'-carboxypentyl)-lepidinium bromide | 10.5 g | [Br-].C(=O)(O)CCCCC[N+]1=CC=C(C)C2=CC=CC=C12 | InChI=1S/C16H19NO2.BrH/c1-13-10-12-17(11-6-2-3-9-16(18)19)15-8-5-4-7-14(13)15;/h4-5,7-8,10,12H,2-3,6,9,11H2,1H3;1H
